US08975415B2
A mixture of di-tert-butyl (6′-bromodispiro[1,3-oxazole-4,4′-chromene-3′,3″-oxetan]-2-yl)imidodicarbonate (150 mg, 0.286 mmol) and 3-methoxyprop-1-yne (0.072 mL, 0.86 mmol) in Et3N (1.5 mL) was purged with argon. To the mixture was added Pd(PPh3)4 (13 mg, 0.011 mmol) and CuBr (4.9 mg, 0.034 mmol), and the mixture was refluxed for 3 hours under an argon atmosphere. The mixture was partitioned between CHCl3 and brine, and filtered through celite. The organic layer of the filtrate was dried over MgSO4, filtered off, and the filtrate was evaporated. Silicagel column chromatography (EtOAc-hexane, a linear gradient of EtOAc from 0 to 25%) afforded di-tert-butyl [6′-(3-methoxyprop-1-yn-1-yl)dispiro[1,3-oxazole-4,4′-chromene-3′,3″-oxetan]-2-yl]imidodicarbonate (34.7 mg).

reactant | di-tert-butyl (6′-bromodispiro[1,3-oxazole-4,4′-chromene-3′,3″-oxetan]-2-yl)imidodicarbonate | 0.286 mmol, 150 mg | BrC=1C=C2C3(N=C(OC3)N(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C)C3(COC3)COC2=CC1 | C23H29BrN2O7
reactant | 3-methoxyprop-1-yne | 0.86 mmol, 0.072 mL | COCC#C | C4H6O
solvent | Et3N | 1.5 mL | CCN(CC)CC | C6H15N
catalyst | Pd(PPh3)4 | 0.011 mmol, 13 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | di-tert-butyl [6′-(3-methoxyprop-1-yn-1-yl)dispiro[1,3-oxazole-4,4′-chromene-3′,3″-oxetan]-2-yl]imidodicarbonate | 34.7 mg | COCC#CC=1C=C2C3(N=C(OC3)N(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C)C3(COC3)COC2=CC1 | C27H34N2O8
